US08748610B2
1. Synthesis of 5-amino-2-bromo-N,N-dimethylbenzamide (Compound 26)
Diisopropyl ethylamine (21 ml, 121 mmol) was dissolved in a solution of 5-amino-2-bromo benzoic acid (5 g, 23 mmol), dimethylamine (5 g, 115 mmol) and BOP (51 g, 121 mmol) in 100 ml DMF. And the reaction mixture was stirred at room temperature 30 minutes. Three times of water was added into the reaction solution. The reaction mixture was extracted by ethyl acetate. The organic layer was evaporated to give a crude product, which was purified using column chromatography to give the product. (3.1 g, 54%)

reactant | Diisopropyl ethylamine | 121 mmol, 21 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-amino-2-bromo benzoic acid | 23 mmol, 5 g | NC=1C=CC(=C(C(=O)O)C1)Br | C7H6BrNO2
reactant | dimethylamine | 115 mmol, 5 g | CNC | C2H7N
reactant | BOP | 121 mmol, 51 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-amino-2-bromo-N,N-dimethylbenzamide | NC=1C=CC(=C(C(=O)N(C)C)C1)Br | C9H11BrN2O
